US07348354B2
Phenylpropylamine (285 μl, 2 mmole) was dissolved in dry chloroform (15 ml) and combined with triethylamine (555 μl, 4 mmole). Thiophosgene (153 μl, 2 mmole) was added to this mixture. After a reaction time of 16 h, the diastereoisomer mixture of N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine was added and stirring was continued for a further 16 h at RT. Working up was performed by extracting the batch with saturated NaHCO3 solution (3×20 ml). The organic phase was dried with Na2SO4 and evaporated. The product was a mixture of two diastereoisomers and could be purified by column chromatography [silica gel 60 (50 g); methanol (500 ml)]. The more polar diastereoisomer of 1-(4-dimethylamino-4-phenyl-cyclohexyl)-3-(3-phenyl-propyl)-thiourea was obtained as a colorless foam in a yield of 205 mg (25%). The more nonpolar diastereoisomer of 1-(4-dimethylamino-4-phenyl-cyclohexyl)-3-(3-phenyl-propyl)-thiourea was obtained as a colorless foam in a yield of 410 mg (50%).

reactant | Phenylpropylamine | 2 mmole, 285 μl | C1(=CC=CC=C1)CCCN | C9H13N
reactant | triethylamine | 4 mmole, 555 μl | C(C)N(CC)CC | C6H15N
reactant | Thiophosgene | 2 mmole, 153 μl | C(=S)(Cl)Cl | CCl2S
reactant | N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine | CN(C1(CCC(CC1)N)C1=CC=CC=C1)C | C14H22N2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-dimethylamino-4-phenyl-cyclohexyl)-3-(3-phenyl-propyl)-thiourea | CN(C1(CCC(CC1)NC(=S)NCCCC1=CC=CC=C1)C1=CC=CC=C1)C | C24H33N3S
